Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Demerol
 
Attending: ___
 
___ Complaint:
Cardiac Arrest
 
Major Surgical or Invasive Procedure:
Intubated
Hemodialysis continued
 
History of Present Illness:
___ y/o M w/ ESRD (___ HD), CAD stents EF 20%, ICD on coumadin 
for h/o LV thrombus noted on cath report of ___, has recently 
noted lead fracture on admission to ___ of early ___ 
after having been unresponsive s/p external AED shock but 
negative ICD interrogation, --repair disrupted by elevated INR.

Last night, patient found by Mother to be in CP/SOB with 
?shaking on floor and non-responsive to mother's commands, EMS 
(per report, 20 min for ems arrival) noted WCT and intubated, 
CPR, epinephrine with intermittent ROSC but AED advised no 
shocks. In BID ___, was pulseless with wide complex 
tachycardia, treated for hyperkalemia (?spurious result of 11, 
truly 4.5-5), ABG 7.26/33/123 on 50% and glucose 59, got epi x1, 
shock 200j with ROSC therafer.  No pressors/fluids required.  
SBP 100-120 at that time, with HR in 80's.  Then transferred to 
___ for further evaluation
 
On arrival to the ___ ED he was described as awake and moving 
all 4 extremeties, so he was not placed on the cooling protocol. 
His initial vital signs were 97.5 62 ___ 100%. He was 
sedated was prn versed. A repeat K was 5 and lactate 7.4 with pH 
7.27. His EKG was interpreted as LBBB unchanged from priors. TTE 
w/EF 25% and 3+ TR.

On arrival to MICU, patient was tolerating vent w/o difficulty.  
GCS status not suitable for cooling protocol.  Patient started 
on amio gtt after loading dose and EP consulted.  Patient 
extubated w/o difficulty this ___ - now on NRB. Renal awaiting 
cardiac clearence prior to initiation of HD.
.
Prior to transfer to CCU, patient was extubated, on NRB w/ T 
96.7, HR 73, BP120/75, HR 85, RR 19, 98%.  
 
Past Medical History:
1. Heart disease:  
- s/p Anterior MI (___) with tPA and rescue PCI of LAD  
--> ___ biliary stent placed in ostial LAD  
--> 4.0x22mm in proximal LAD  
--> 4.0x15mm in mid LAD  
- s/p MI (___)  
- ICD placed in ___ with Pacemaker/ICD generator change on 
___  
- PCI (___)
--> LMCA: free of disease  
--> LAD: patent previously placed stents with 20% ISR in the 
proximal segment  
--> LCX: free of flow limitations  
- s/p Cardiac arrest (___)  
- EF 20% and LV thrombus  
2. Hypertension  
3. Hyperlipidemia: ___: TC 177; LDL 103; HDL 54  
4. End-stage renal disease:  
- s/p basilic vein brachial artery AV fistula  
5. h/o line sepsis  
.  
CARDIAC HISTORY: 
CABG: none
Percutaneous coronary intervention: as above
Pacemaker/ICD placed: as above

___ TTE: The left atrium is markedly dilated. The right 
atrium is markedly dilated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is 
___. There is mild symmetric left ventricular hypertrophy. 
The left ventricular cavity is severely dilated. There is severe 
global left ventricular hypokinesis (LVEF = 20 %). The basal 
lateral wall moves best and the remaining segments are 
akinetic.. No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. The right ventricular 
cavity is markedly dilated with moderate global free wall 
hypokinesis. There is no mass/thrombus in the right ventricle. 
The aortic root is mildly dilated at the sinus level. The aortic 
arch is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
regurgitation. There is no aortic valve stenosis. The mitral 
valve leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The tricuspid 
valve leaflets are mildly thickened. Moderate to severe [3+] 
tricuspid regurgitation is seen. There is severe pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
 
.  
ETT: per notes, myoview in ___ fixed anterior and inferior 
defects, extending to the apex
.  
CARDIAC CATH: 
___ LHC/RHC (pre-op for Tx eval): 1. Selective coronary 
arteriography of this right dominant system revealed 
angiographic evidence of no significant flow limiting coronary 
artery disease. The LMCA was free of disease. The LAD had patent 
previously placed stents with 20% ISR in the proximal segment. 
The CFX was free of flow limitations. 
2. Left ventriculography was not performed due to the presence 
of LV 
thrombus. 
3. Hemodynamic evaluation demonstrated normal right and left 
heart 
filling pressures with not pulmonary HTN and preserved cardiac 
index. 
4. Right femoral arteriotomy site was successfully closed with a 
___ 
angioseal closure device. 
Filling Pressures: RA mean 6; RV ___ PA ___ PCWP 
___ CI 3.3; SVR 1075; PVR 48

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
(although ___ did have CAD) or sudden death. 

 
Physical Exam:
VS: 96.7  60-70s  120/75 R: 19 Sat 100% on 40% FIO2
Gen: tall, white male, sedated but ___
HEENT: EOM intact, AT/NC, equal pupils 
Pulm: coarse breath sounds, no crackles
CV: S1/S2 w/diamond shaped murmur heard loudest at apex; JVP to 
angle of jaw; no rubs or gallops  
Abd: umbilical well healed scar; soft, NT/ND; no HSM 
Ext: no edema; palpable DP pulses bilaterally  
Neuro: MS sedated, ___ and follows commands 
intermittently; pupils equally round, R facial droop but 
bilaterally elevates eyebrows; ___ L>R; ___ hand grasp and 
dorsi/plantarflexion; hyperreflexia of knee, biceps brachi 
bilaterally; 

 
Pertinent Results:
___ 05:28AM   PH-7.27* COMMENTS-GREEN TOP
___ 05:45AM   WBC-15.9*# RBC-3.06* HGB-10.0* HCT-32.0* 
MCV-105* MCH-32.7* MCHC-31.2 RDW-16.2*
___ 05:45AM   CK-MB-4
___ 05:45AM   cTropnT-0.06*
___ 05:28AM   GLUCOSE-100 LACTATE-7.4* NA+-140 K+-5.0 
CL--95* TCO2-24

___ NCCT
COMPARISON: CT head of ___. 
  
FINDINGS: Study is limited by motion artifact degrading multiple 
axial slices 
at the vertex and skull base. Some of the axial slices at the 
vertex were 
subsequently repeated. Despite limitations as described above, 
there is no 
evidence of acute hemorrhage, mass lesion, shift of normally 
midline 
structures, hydrocephalus, or evidence of major territorial 
infarct. The 
gray-white matter differentiation appears preserved. The major 
intracranial 
cisterns are preserved. 
  
The extra-calvarial soft tissues are unremarkable. The 
visualized paranasal 
sinuses and mastoid air cells appear clear. 
  
IMPRESSION: Moderately limited study. While no evidence of major 
territorial 
infarct is identified, given patient's status of cardiac 
pacemaker, a CT 
perfusion is recommended if continued concern for infarction is 
present. 

___ TTE
The left atrium is elongated. The right atrium is markedly 
dilated. The estimated right atrial pressure is ___. There 
is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity is severely dilated. There is severe global 
left ventricular hypokinesis (LVEF = ___ %). The right 
ventricular cavity is moderately dilated with moderate global 
free wall hypokinesis. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Mild (1+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. Moderate to severe [3+] tricuspid regurgitation is 
seen. There is moderate pulmonary artery systolic hypertension. 
Significant pulmonic regurgitation is seen. There is no 
pericardial effusion. 

IMPRESSION: Dilated and hypertrophied left ventricle with severe 
global hypokinesis. Dilated and hypokinetic right ventricle. 
Moderate to severe tricuspid regurgitation. Moderate to severe 
pulmonary hypertension. 

Compared with the report of the prior study (images unavailable 
for review) of ___, the left ventricle is more dilated. 
The other findings are similar.
 
Brief Hospital Course:
___ male with PMHx CAD, cardiac arrest s/p ICD placement, and 
EF 20% presenting with metabolic derangements and cardiac 
arrest. Appears to have developed AFlu/Atach then became 
acidotic/hyperkalemic w/evolution to VFib that was not detected 
by ICD, possibly b/c the acidemia decreased the sensitivity. 
.
# Cardiac Rhythm: The etiology for his cardiac arrest was 
initially unclear but included hyperkalemia vs ischemic. Because 
three sets of cardiac enzymes were never elevated, it was 
believed that this was not due to ACS. After further review of 
OSH records, it was proposed that he went int atrial 
flutter/atrial tachycardia which led to hypoperfusion 
w/development of acidosis and consequent hyperkalemia leading to 
evolution into ventricular fibrillation. It was initially 
thought that his ICD did not detect this event because of 
decreased sensitivity of the leads in the setting of acidemia, 
but further evaluation by the electrophysiology team concluded 
that the ICD lead anomaly was unrelated to the incident. In his 
recent admission from 2 ___ ago, ICD interrogation showed normal 
sensing function but malfunction of the generator lead; however, 
it was not fixed because of an inability to correct his elevated 
INR. Therefore, during this admission, the goal was to correct 
the lead. In the mean time, he was maintained on his amiodarone 
and lopressor and was in NSR with his baseline LBBB.

After being transferred to the cardiology floor, ICD revision 
was planned but the patient developed thrombophlebitis of the 
right arm on the evening prior to transfer.  He was started on 
cephalexin and an ultrasound demonstrated thrombus throughout 
the course of the cephalic and in the basillic vein to the mid 
arm.  He was later sent to interventional radiology for PICC 
placement proximal to the clot but nonocclusive, soft thrombus 
was then identified in his brachial vein of the right arm.  Note 
that the left arm holds his AV fistula.  

Because the procedure could not be performed while the patient 
had an ongoing infection with possible vascular involvement, it 
was postponed until the patient completed his antibiotics.  He 
was also instructed to restart anticoagulation with warfarin.  
He will be contacted by the ___ clinic for readmission.

# CAD/Ischemia: His cardiac enzymes had an MB index of less than 
5% over three sets so he ruled out ACS. He complained of MSK 
pain over his precordium which was treated with analgesics. He 
was maintained on ASA and an ACE inbitior was initiated.  He was 
continued on his home meds (without the ACEi) at the time of 
d/c.
.
# Pump: Although clinically the patient did not complain of 
dyspnea and on physicial exam he did not have crackles nor 
peripheral edema, it was known that he had a dilated CMP. Given 
the setting of his cardiac arrest, we repeated a TTE which 
showed a stable low EF with worsening left ventricular 
dilatation and no thrombus. 

# Hyperkalemia/ESRD: His admission K was 5.7 and initially he 
was not HD as there was no clear indication. He was treated with 
kayexelate PRN over his first night and his K was maintained 
around 5.5. He underwent a mini HD session on ___ which was 
tolerated well, w/a post HD potassium of 4.9. His EKG remained 
w/o signs of hyperkalemia and he was treated with HD as per 
renal; he was maintained on his baseline renal meds. 

# Neuro: He was initially ___ but sleepy and confused, 
unaware of year, location nor president; on exam, had 
hyperreflexia and positive ___ concerning for upper motor 
neuron injury; it was unclear whether there may be a Sz 
component as father also has ?___. Neuro saw pt the night of his 
admission and felt he had diffuse encephalopathy but perhaps a 
focal lesion on R given hyperreflexia L>R. NCCT was done which 
was unremarkable. The patient had a trial of low dose diazepam 
w/decrease in myoclonus. The morning after, neuro felt there was 
improvement in the myoclonus and needed only observation.

# Anemia/INR: Has long-standing anemia likely ___ ESRD with an 
elevated MCV; Vitamin B12 and folate were normal and iron 
studies were c/w anemia of chronic disease. His Hct remained 
stable. His INR was elevated at admission to 1.8 and in his 
recent admission, it was this intractable INR that had prevented 
him from getting an ICD lead revision. He did not respond to low 
dose vitamin K. A relativelly recent US and CT of the abdomen 
had not shown any liver lesions although he did have a 
chronically elevated AlkPhos but exhibited normal albumin 
levels. Per renal, he was to begin EPO. 
.  
# FEN: renal diet
.
# Prophylaxis: Heparin SQ, bowel regimen
.
# Code:  FULL CODE
.  
# Communication: Contact ___, Mother, 
___

 
Medications on Admission:
1. Aspirin 81 mg daily  
2. B Complex Vitamins daily  
3. Folic Acid 1 mg daily  
4. B Complex-Vitamin C-Folic Acid 1 mg daily  
5. Metoclopramide 5 mg QIDACHS  
6. Sevelamer HCl 800 mg TID
7. Simvastatin 40 mg daily  
8. Metoprolol Succinate 75 mg daily  
9. Ascorbic Acid ___ mg daily  
10. Zolpidem 5 mg Tablet PO QHS:PRN insomnia  
11. Docusate Sodium 100 mg Capsule BID  
12. Senna 8.6 mg Tablet 1 - 2 PO BID:PRN  
13. Amiodarone 200 mg daily  

 
Discharge Medications:
1. Docusate Sodium 50 mg/5 mL Liquid Sig: Two (2)  PO BID (2 
times a day).  
2. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed for constipation.  
3. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
4. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
5. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. Cephalexin 500 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours) for 7 days: Last day is ___.
Disp:*21 Capsule(s)* Refills:*0*
9. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).
Disp:*60 Tablet(s)* Refills:*2*
10. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: ___ (75) mg PO once a day.  
11. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
Three (3) Adhesive Patch, Medicated Topical DAILY (Daily): 
Please leave on for 12 hours, off for 12 hours.
Disp:*20 Adhesive Patch, Medicated(s)* Refills:*2*
12. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
13. Warfarin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
14. Metoclopramide 5 mg Tablet Sig: One (1) Tablet PO qidachs.  
15. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Cardiac arrest (ventricular tachycardia)
Venous thrombophlebitis
Intracardiac device evaluation
Costochondritis
.
Secondary:
End stage renal disease
Coronary artery disease
Myocardial infarction
Dilated Cardiomyopathy  
Hypertension  
Hyperlipidemia 

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted because you had a cardiac arrest.  We 
ressucitated you and corrected abnormalities in your blood 
chemistries that may have caused your arrest.  While you were 
here, we also evaluated your pacemaker.  We determined that it 
will ultimately require a revision.  We also diagnosed you with 
inflammation and clots in the veins of your right arm.  For 
this, we are giving you antibiotics.  After completing treatment 
with the antibiotics, you will undergo the revision of your ICD. 
 You will be contacted by Dr. ___ within the next 
few days for scheduling.
. 
Please take all of your medications as prescribed. Please keep 
all of your follow-up appointments.  Continue taking coumadin.  
Continue taking cephalexin (antibiotic) for seven days as 
prescribed. Last day will be ___
.
Please call your doctor or return to the hospital if you 
experience fevers, chills, sweats, chest pain, shortness of 
breath or anything else of concern.

 
Followup Instructions:
___